US04670421
Methyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate
A solution of 7.0 g. of 4-[14-(trimethylsilyl)tetradecylamino)benzoic acid in 25 ml. of hexamethylphosphoramide is added to a stirred mixture of 0.800 g. of sodium hydride (57% in mineral oil) and 25 ml. of hexamethylphosphoramide. The solution which forms after one hour is treated with 11.0 g. of methyl iodide and is then stirred at 25° C. for 18 hours. Dilution with water followed by filtration affords a white solid which is crystallized from ethanol to yield the product as a white solid.

reactant | 4-[14-(trimethylsilyl)tetradecylamino)benzoic acid | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(C)C | C24H43NO2Si
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)OC)C=C1)(C)C | C25H45NO2Si
